US07923456B2
Step 2: 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
A solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (364 mg, 0.7 mmol) in methanol (0.5 ml) and dichloromethane (0.5 ml) was loaded onto an SCX-2 cartridge. The cartridge was flushed with methanol and the desired product was eluted using a 2M solution of ammonia in methanol. The appropriate fractions were combined and concentrated under reduced pressure and the residue was azeotroped with dichloromethane. Purification of the resultant residue by flash chromatography (Si-PPC, gradient 0% to 10%, methanol in dichloromethane) followed by preparative HPLC (Gemini 5 micron C6-Phenyl 250×21.20 mm column, 20 mmol Et3N per liter solvent, gradient acetonitrile/water, 5 to 98%, ramp time 25 minutes) afforded the title compound as a yellow solid (77.6 mg, 23%). LCMS (method A): RT=5.13 min, [M+H]+=487. 1H NMR (DMSO-d6): 8.01 (1H, s), 7.58 (1H, dd, J=10.68, 1.92 Hz), 7.42 (1H, s), 7.38 (1H, d, J=9.34 Hz), 7.30 (1H, dd, J=8.43, 1.82 Hz), 6.91 (1H, d, J=9.32 Hz), 6.32 (1H, t, J=8.68 Hz), 3.72-3.67 (1H, m), 3.60-3.51 (2H, m), 3.30 (2H, d, J=4.94 Hz).

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.7 mmol, 364 mg | CC1(OC[C@H](O1)CONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)C | C20H20FIN4O4
reactant | Et3N | 20 mmol | CCN(CC)CC | C6H15N
reactant | acetonitrile water | C(C)#N.O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 77.6 mg, 23% | O[C@@H](CONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)CO | C17H16FIN4O4
